US08609688B2
Synthesis of tert-butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-{3-[4-(dimethylcarbamoyl)piperidin-1-yl]phenyl}-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate
To a solution of tert-butyl (1-{4-[(6-{3-[4-(dimethylcarbamoyl)piperidin-1-yl]phenyl}-3-nitropyridin-2-yl)amino]phenyl}cyclobutyl)carbamate (5.4 g, 8.9 mmol) in THF/MeOH (150 mL, 1:1), was added Pd on carbone (5% wet, 1 g). The mixture was stirred under hydrogen gas (1 atm) for 2 h. The mixture was filtered through celite and evaporated. The residue was dissolved in acetic acid (30 mL) and 2-aminonicotinaldehyde (1.1 g, 9.3 mmol) was added then the mixture was stirred at rt for 1 h. The mixture was heated at 80° C. for 1 h and the mixture was poured into water and neutralized with sodium hydroxide (20 g). The solid was collected by filtration and purified with silica gel column chromatography (hexane/ethyl acetate/methanol, 10:0:0 to 0:10:1) to give a pale orange solid. The solid was slurried in diethyl ether (200 mL) and collected to give the titled compound as a pale yellow solid (3.4 g, 62%).

reactant | tert-butyl (1-{4-[(6-{3-[4-(dimethylcarbamoyl)piperidin-1-yl]phenyl}-3-nitropyridin-2-yl)amino]phenyl}cyclobutyl)carbamate | 8.9 mmol, 5.4 g | CN(C(=O)C1CCN(CC1)C=1C=C(C=CC1)C1=CC=C(C(=N1)NC1=CC=C(C=C1)C1(CCC1)NC(OC(C)(C)C)=O)[N+](=O)[O-])C | C34H42N6O5
reactant | 2-aminonicotinaldehyde | 9.3 mmol, 1.1 g | NC1=C(C=O)C=CC=N1 | C6H6N2O
reactant | water | O | H2O
reactant | sodium hydroxide | 20 g | [OH-].[Na+]
solvent | THF MeOH | 150 mL | C1CCOC1.CO
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
catalyst | Pd | [Pd] | Pd
product | tert-butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-{3-[4-(dimethylcarbamoyl)piperidin-1-yl]phenyl}-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate | 3.4 g, 62% | NC1=NC=CC=C1C1=NC=2C(=NC(=CC2)C2=CC(=CC=C2)N2CCC(CC2)C(N(C)C)=O)N1C1=CC=C(C=C1)C1(CCC1)NC(OC(C)(C)C)=O | C40H46N8O3
